US06498170B2
5-(4-{4-[(2S)-2-Hydroxy-3-(2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-propylamino]-piperidine-1-sulfonyl}-benzyl)-thiazolidine-2,4-dione
The title compound was prepared from 5-[4-(4-oxo-piperidine-1-sulfonyl)-benzyl]-thiazolidine-2,4-dione and (S)-4-[2-hydroxy-3-aminopropoxy]-1,3-dihydro-2H-benzimidazol-2-one according to the reductive amination procedure of Intermediate 21 as a pale grey solid; 1H NMR (300 MHz, DMSO-d6): δ 1.20-1.40 (m, 2 H), 1.80-2.00 (m, 2 H), 2.30-4.00 (m, 12 H), 4.65 (dd, J=8.0, 3.5 Hz, 1 H), 6.56 (d, J=3.2 Hz, 1 H), 6.59 (d, J=3.8 Hz, 1 H), 6.85 (t, J=3.5 Hz, 1 H), 7.50 (d, J=8.1 Hz, 2 H), 7.66 (d, J=8.1 Hz, 2 H), 10.70 (s, 1 H), 10.79 (brs, 1 H); MS (ES) m/z : 576.0 (M++H); HRMS Calcd. for C25H30N507S2 (M++H): 576.1587. Found: 576.1596.

reactant | 5-[4-(4-oxo-piperidine-1-sulfonyl)-benzyl]-thiazolidine-2,4-dione | O=C1CCN(CC1)S(=O)(=O)C1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C15H16N2O5S2
reactant | (S)-4-[2-hydroxy-3-aminopropoxy]-1,3-dihydro-2H-benzimidazol-2-one | O[C@H](COC1=CC=CC=2NC(NC21)=O)CN | C10H13N3O3
product | 5-(4-{4-[(2S)-2-Hydroxy-3-(2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-propylamino]-piperidine-1-sulfonyl}-benzyl)-thiazolidine-2,4-dione | O[C@@H](CNC1CCN(CC1)S(=O)(=O)C1=CC=C(CC2C(NC(S2)=O)=O)C=C1)COC1=CC=CC=2NC(NC21)=O | C25H29N5O7S2
